US08039472B2
4-(4-Hydroxy-phenyl)-butyric acid (22.1 g, 123 mmol) is dissolved in THF (750 ml) and borane-dimethyl sulfide (23.3 ml, 245 mmol) is slowly added. The yellow suspension formed is heated at reflux for 3 hours until most of the solid slowly dissolves. The flask is removed from the heating mantle, and MeOH is slowly added until bubbling ceases and the residual solid has dissolved. The flask is cooled to room temperature and water (1 L) is added. The pH is corrected to 3 with AcOH, then the mixture is extracted with EtOAc (2×500 ml). The organics are washed with brine, dried (MgSO4) and concentrated. The crude product is slurried with silica (500 g) in 25% EtOAc/iso-hexanes (1 L). This is filtered, then flushed with 50% EtOAc/iso-hexanes (2 L) to elute the product. The organics are concentrated to give 4-(4-Hydroxy-butyl)-phenol as a brown oil which crystallizes on standing; 1H NMR (CDCl3): 1.55-1.72 (4H, m), 2.58 (2H, t, J=7.0 Hz), 3.1 (2H, br signal), 3.70 (2H, t, J=6.4 Hz), 6.77 (2H, d, J=8.4 Hz), 7.05 (2H, d, J=8.4 Hz).

reactant | 4-(4-Hydroxy-phenyl)-butyric acid | 123 mmol, 22.1 g | OC1=CC=C(C=C1)CCCC(=O)O | C10H12O3
reactant | borane-dimethyl sulfide | 245 mmol, 23.3 ml | CSC.B
solvent | THF | 750 ml | C1CCOC1 | C4H8O
product | 4-(4-Hydroxy-butyl)-phenol | OCCCCC1=CC=C(C=C1)O | C10H14O2
